US08183255B2
Intermediate E1(i): Tert-butyl 3-[(5-fluoro-2-vinylpyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate
To a septum capped sealed tube was added tert-butyl 3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate (2.00 g, 5.22 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2 dioxaborolane (2.41 g, 15.7 mmol), Na2CO3 (1.66 g, 15.7 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (850 mg, 1.04 mmol) followed by DME (50 mL) and water (12 mL). The reaction mixture was purged with argon for 2 min. then placed in a preheated 100° C. oil bath and stirred for 16 h. The crude reaction was concentrated then taken up in EtOAc (100 mL) and washed with water (50 mL). The EtOAc solution was dried (MgSO4), filtered and concentrated. Purification was performed by silica gel column chromatography using 1-10% 7N NH3/MeOH in CH2Cl2 to provided the desired compound E1(i) as an orange solid (1.8 g, 91%). 1H NMR (300 MHz, CDCl3) δ ppm 1.45-1.58 (m, 9H), 1.65-1.78 (m, 6H), 4.45-4.71 (m, 2H), 5.58-5.71 (m, 1H), 6.34-6.46 (m, 1H), 6.68-6.82 (m, 1H), 7.99 (s, 1H), 8.12-8.32 (m, 1H). Mass spectrum: Calcd for C18H24FN6O2 (M+H): 375. Found 375.

reactant | tert-butyl 3-[(2-chloro-5-fluoropyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | 5.22 mmol, 2.00 g | ClC1=NC=C(C(=N1)NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C)F | C16H20ClFN6O2
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2 dioxaborolane | 15.7 mmol, 2.41 g | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Na2CO3 | 15.7 mmol, 1.66 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 50 mL | COCCOC | C4H10O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 1.04 mmol, 850 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | water | 12 mL | O | H2O
product | Tert-butyl 3-[(5-fluoro-2-vinylpyrimidin-4-yl)amino]-6,6-dimethyl-4,6-dihydropyrrolo[3,4-c]pyrazole-5(1H)-carboxylate | FC=1C(=NC(=NC1)C=C)NC=1C2=C(NN1)C(N(C2)C(=O)OC(C)(C)C)(C)C | C18H23FN6O2
